US07273879B2
Into 11 ml of N,N-dimethylformamide were dissolved 190 mg of 5-chloro-3-methylthio-1,2,4-thiadiazole and 123 mg of benzyl alcohol, 59 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 0.5 hour under ice-cooling and for 4.5 hours at room temperature. The reaction mixture was added to saturated ammonium chloride aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 190 mg of 5-benzyloxy-3-methylthio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (1)).

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 190 mg | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | benzyl alcohol | 123 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 59 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-3-methylthio-1,2,4-thiadiazole | 190 mg | C(C1=CC=CC=C1)OC1=NC(=NS1)SC | C10H10N2OS2
